*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : DO3314-102
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt DO3314-102_freq port1 port2 PARAMS: Cpar=5.6pF Ind=1uH
X1 port1 port2 Model1A PARAMS:
+ R1=507
+ R2=0.063
+ C= {Cpar}
+ K1=0.000125
+ K2=0.323
+ K3= {Ind}
+ K4=0.0143
+ K5=0.00000916
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=454.852764
.ends DO3314-102_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : DO3314-102
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt DO3314-102_imp port1 port2 PARAMS: Cpar=5.09pF Ind=1uH
X1 port1 port2 Model1D PARAMS:
+ R1=507
+ R2=0.063
+ C= {Cpar}
+ K1=0.000125
+ K2=0.323
+ K3= {Ind}
+ K4=0.0143
+ K5=0.00000916
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=454.852764
.ends DO3314-102_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : DO3314-152
* Inductance = 1.5uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt DO3314-152_freq port1 port2 PARAMS: Cpar=5.84pF Ind=1.5uH
X1 port1 port2 Model1A PARAMS:
+ R1=1010
+ R2=0.111
+ C= {Cpar}
+ K1=0.000125
+ K2=0.514
+ K3= {Ind}
+ K4=0.0236
+ K5=0.0000097
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=498.900501
.ends DO3314-152_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : DO3314-152
* Inductance = 1.5uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt DO3314-152_imp port1 port2 PARAMS: Cpar=5.27pF Ind=1.5uH
X1 port1 port2 Model1D PARAMS:
+ R1=1010
+ R2=0.111
+ C= {Cpar}
+ K1=0.000125
+ K2=0.514
+ K3= {Ind}
+ K4=0.0236
+ K5=0.0000097
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=498.900501
.ends DO3314-152_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : DO3314-222
* Inductance = 2.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt DO3314-222_freq port1 port2 PARAMS: Cpar=3.44pF Ind=2.2uH
X1 port1 port2 Model1A PARAMS:
+ R1=507
+ R2=0.126
+ C= {Cpar}
+ K1=0.000125
+ K2=0.635
+ K3= {Ind}
+ K4=0.032
+ K5=0.0000097
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1106.13053
.ends DO3314-222_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : DO3314-222
* Inductance = 2.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt DO3314-222_imp port1 port2 PARAMS: Cpar=3.12pF Ind=2.2uH
X1 port1 port2 Model1D PARAMS:
+ R1=507
+ R2=0.126
+ C= {Cpar}
+ K1=0.000125
+ K2=0.635
+ K3= {Ind}
+ K4=0.032
+ K5=0.0000097
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1106.13053
.ends DO3314-222_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : DO3314-332
* Inductance = 3.3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt DO3314-332_freq port1 port2 PARAMS: Cpar=2.19pF Ind=3.3uH
X1 port1 port2 Model1A PARAMS:
+ R1=15
+ R2=0.182
+ C= {Cpar}
+ K1=0.000193
+ K2=0.817
+ K3= {Ind}
+ K4=0.056
+ K5=0.0000097
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=5991.70687
.ends DO3314-332_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : DO3314-332
* Inductance = 3.3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt DO3314-332_imp port1 port2 PARAMS: Cpar=1.95pF Ind=3.3uH
X1 port1 port2 Model1D PARAMS:
+ R1=15
+ R2=0.182
+ C= {Cpar}
+ K1=0.000193
+ K2=0.817
+ K3= {Ind}
+ K4=0.056
+ K5=0.0000097
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=5991.70687
.ends DO3314-332_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : DO3314-472
* Inductance = 4.7uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt DO3314-472_freq port1 port2 PARAMS: Cpar=1.18pF Ind=4.7uH
X1 port1 port2 Model1A PARAMS:
+ R1=7.5
+ R2=0.298
+ C= {Cpar}
+ K1=0.000223
+ K2=0.797
+ K3= {Ind}
+ K4=0.0904
+ K5=0.0000097
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=6652.59975
.ends DO3314-472_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : DO3314-472
* Inductance = 4.7uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt DO3314-472_imp port1 port2 PARAMS: Cpar=1.03pF Ind=4.7uH
X1 port1 port2 Model1D PARAMS:
+ R1=7.5
+ R2=0.298
+ C= {Cpar}
+ K1=0.000223
+ K2=0.797
+ K3= {Ind}
+ K4=0.0904
+ K5=0.0000097
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=6652.59975
.ends DO3314-472_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : DO3314-682
* Inductance = 6.8uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt DO3314-682_freq port1 port2 PARAMS: Cpar=1.44pF Ind=6.8uH
X1 port1 port2 Model1A PARAMS:
+ R1=7.5
+ R2=0.418
+ C= {Cpar}
+ K1=0.000223
+ K2=1.59
+ K3= {Ind}
+ K4=0.0904
+ K5=0.00000979
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=11310.5924
.ends DO3314-682_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : DO3314-682
* Inductance = 6.8uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt DO3314-682_imp port1 port2 PARAMS: Cpar=1.32pF Ind=6.8uH
X1 port1 port2 Model1D PARAMS:
+ R1=7.5
+ R2=0.418
+ C= {Cpar}
+ K1=0.000223
+ K2=1.59
+ K3= {Ind}
+ K4=0.0904
+ K5=0.00000979
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=11310.5924
.ends DO3314-682_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : DO3314-103
* Inductance = 10uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt DO3314-103_freq port1 port2 PARAMS: Cpar=1.24pF Ind=10uH
X1 port1 port2 Model1A PARAMS:
+ R1=4.7
+ R2=0.58
+ C= {Cpar}
+ K1=0.000214
+ K2=1.93
+ K3= {Ind}
+ K4=0.18
+ K5=0.00000979
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=13205.8674
.ends DO3314-103_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : DO3314-103
* Inductance = 10uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt DO3314-103_imp port1 port2 PARAMS: Cpar=1.10pF Ind=10uH
X1 port1 port2 Model1D PARAMS:
+ R1=4.7
+ R2=0.58
+ C= {Cpar}
+ K1=0.000214
+ K2=1.93
+ K3= {Ind}
+ K4=0.18
+ K5=0.00000979
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=13205.8674
.ends DO3314-103_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : DO3314-153
* Inductance = 15uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt DO3314-153_freq port1 port2 PARAMS: Cpar=1.5pF Ind=15uH
X1 port1 port2 Model1A PARAMS:
+ R1=4.7
+ R2=0.94
+ C= {Cpar}
+ K1=0.000214
+ K2=2.97
+ K3= {Ind}
+ K4=0.23
+ K5=0.00000979
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=17408.434
.ends DO3314-153_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : DO3314-153
* Inductance = 15uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt DO3314-153_imp port1 port2 PARAMS: Cpar=1.37pF Ind=15uH
X1 port1 port2 Model1D PARAMS:
+ R1=4.7
+ R2=0.94
+ C= {Cpar}
+ K1=0.000214
+ K2=2.97
+ K3= {Ind}
+ K4=0.23
+ K5=0.00000979
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=17408.434
.ends DO3314-153_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : DO3314-223
* Inductance = 22uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt DO3314-223_freq port1 port2 PARAMS: Cpar=1.82pF Ind=22uH
X1 port1 port2 Model1A PARAMS:
+ R1=946
+ R2=1.63
+ C= {Cpar}
+ K1=0.000213
+ K2=5.28
+ K3= {Ind}
+ K4=0.314
+ K5=0.00000979
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=8484.958
.ends DO3314-223_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : DO3314-223
* Inductance = 22uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt DO3314-223_imp port1 port2 PARAMS: Cpar=1.68pF Ind=22uH
X1 port1 port2 Model1D PARAMS:
+ R1=946
+ R2=1.63
+ C= {Cpar}
+ K1=0.000213
+ K2=5.28
+ K3= {Ind}
+ K4=0.314
+ K5=0.00000979
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=8484.958
.ends DO3314-223_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : DO3314-333
* Inductance = 33uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt DO3314-333_freq port1 port2 PARAMS: Cpar=1.98pF Ind=33uH
X1 port1 port2 Model1A PARAMS:
+ R1=696
+ R2=2.23
+ C= {Cpar}
+ K1=0.000107
+ K2=6.12
+ K3= {Ind}
+ K4=0.478
+ K5=0.00000997
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=12445.9516
.ends DO3314-333_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : DO3314-333
* Inductance = 33uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt DO3314-333_imp port1 port2 PARAMS: Cpar=1.83pF Ind=33uH
X1 port1 port2 Model1D PARAMS:
+ R1=696
+ R2=2.23
+ C= {Cpar}
+ K1=0.000107
+ K2=6.12
+ K3= {Ind}
+ K4=0.478
+ K5=0.00000997
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=12445.9516
.ends DO3314-333_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Impedance Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   Time Domain Inductor Impedance Model
*======================================================================
.subckt Model1D Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K3=1
+ PkZ=1
R2 Lin N001 {R2}
R3 N001 Lout {PkZ}
C1 N001 N002 {C}
R1 N002 Lout {R1}
L1 N001 Lout {K3}
.ends Model1D

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Power Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model1A Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K1=1
+ K2=1
+ K3=1
+ K4=1
+ K5=1
R2 N001 Lin {R2}
R1 Lout N002 {R1}
C1 N002 N001 {C}
G_Rvar2 N001 Lout LAPLACE { V(N001, Lout) } {1/K2/(-S*S/4/PI^2)^0.25}
G_Rvar1 N001 N003 LAPLACE { V(N001, N003) } {1/K1/(-S*S/4/PI^2)^0.25}
G_Lvar N003 Lout  LAPLACE { V(N003, Lout) } {1/(S*1e-6*({K3*1e6}-({K4}*LOG({K5}*(sqrt(-S*S)/(2*pi))))))}
*This large resistance to ground has been added to prevent a floating node error
R3 N003 0 100Meg
.ends Model1A


.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
